data/polar.json
{"reaction_name": "Sulfinate ester formation", "rsmi": "[Cl:2][S:4](=[O:5])[CH3:6].[O-:1][CH3:3]>>[Cl-:2].[O:1]([CH3:3])[S:4](=[O:5])[CH3:6]", "epd": [["LP-/Sigma+", [1], [1, 4]], ["Pi-/LP+", [5, 4], [5]], ["LP-/Pi+", [5], [5, 4]], ["Sigma-/LP+", [2, 4], [2]]]}
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[CH3:1][O:2][c:6]1[cH:28][cH:12][c:11]([CH:22]=[C:21]2[CH:24]=[C:7]([Br:18])[C:10](=[O:15])[C:8]([Br:19])=[CH:25]2)[cH:13][cH:29]1.[O-:3][c:23]1[cH:14][c:9](=[O:16])[n:26]([CH3:5])[c:20](=[O:4])[n:27]1[CH3:17]>>[CH3:1][O:2][c:6]1[cH:28][cH:12][c:11]([CH:22]([CH:14]2[C:9](=[O:16])[N:26]([CH3:5])[C:20](=[O:4])[N:27]([CH3:17])[C:23]2=[O:3])[c:21]2[cH:24][c:7]([Br:18])[c:10]([O-:15])[c:8]([Br:19])[cH:25]2)[cH:13][cH:29]1", "epd": [["LP-/Pi+", [3], [23, 3]], ["Pi-/Sigma+", [14, 23], [14, 22]], ["Pi-/Pi+", [22, 21], [21, 24]], ["Pi-/Pi+", [24, 7], [7, 10]], ["Pi-/LP+", [10, 15], [15]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[CH:4](=[C:11]([O:7][Si:25]([CH3:12])([CH3:13])[CH3:14])[CH2:20][CH3:24])[CH3:26].[cH:1]1[cH:2][cH:16][cH:5][c:6]2[c:3]1[N+:21]([CH3:9])=[CH:15][C:10]2=[CH:8][c:19]1[cH:17][cH:22][cH:27][cH:23][cH:18]1>>[CH3:12][Si+:25]([CH3:13])[CH3:14].[cH:1]1[cH:2][cH:16][cH:5][c:6]2[c:3]1[n:21]([CH3:9])[cH:15][c:10]2[CH:8]([CH:4]([C:11](=[O:7])[CH2:20][CH3:24])[CH3:26])[c:19]1[cH:17][cH:22][cH:27][cH:23][cH:18]1", "epd": [["Sigma-/Pi+", [7, 25], [11, 7]], ["Pi-/Sigma+", [4, 11], [4, 8]], ["Pi-/Pi+", [8, 10], [10, 15]], ["Pi-/LP+", [15, 21], [21]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH3:1][CH2:13][c:14]1[c:4]([CH3:18])[cH:5][nH:12][c:7]1[CH3:3].[CH:2](=[O+:16][CH3:15])[c:17]1[cH:10][cH:8][cH:6][cH:9][cH:11]1>>[CH3:1][CH2:13][C:14]1=[C:4]([CH3:18])[CH:5]([CH:2]([O:16][CH3:15])[c:17]2[cH:10][cH:8][cH:6][cH:9][cH:11]2)[NH+:12]=[C:7]1[CH3:3]", "epd": [["LP-/Pi+", [12], [7, 12]], ["Pi-/Pi+", [14, 7], [4, 14]], ["Pi-/Sigma+", [5, 4], [5, 2]], ["Pi-/LP+", [2, 16], [16]]]}
{"reaction_name": "Michael addition", "rsmi": "[S:9]([c:14]1[cH:25][cH:18][cH:16][cH:21][cH:28]1)([C:22]([S:10]([c:15]1[cH:26][cH:19][cH:17][cH:20][cH:27]1)(=[O:35])=[O:36])=[CH2:13])(=[O:37])=[O:38].[cH:1]1[cH:5][c:31]([CH:3]=[C:39]2[CH:32]=[CH:11][C:29](=[N+:30]([O-:23])[O-:24])[CH:12]=[CH:33]2)[cH:6][cH:2][c:7]1[N+:34](=[O:4])[O-:8]>>[cH:1]1[cH:5][c:31]([CH:3]([CH2:13][C-:22]([S:9]([c:14]2[cH:25][cH:18][cH:16][cH:21][cH:28]2)(=[O:37])=[O:38])[S:10]([c:15]2[cH:26][cH:19][cH:17][cH:20][cH:27]2)(=[O:35])=[O:36])[c:39]2[cH:32][cH:11][c:29]([N+:30](=[O:23])[O-:24])[cH:12][cH:33]2)[cH:6][cH:2][c:7]1[N+:34](=[O:4])[O-:8]", "epd": [["LP-/Pi+", [23], [30, 23]], ["Pi-/Pi+", [29, 30], [11, 29]], ["Pi-/Pi+", [32, 11], [39, 32]], ["Pi-/Sigma+", [3, 39], [3, 13]], ["Pi-/LP+", [13, 22], [22]]]}
{"reaction_name": "Aromatic nitration", "rsmi": "[c:1]1([H:10])[cH:2][cH:3][cH:4][cH:5][cH:6]1.[N+:7](=[O:8])=[O:9]>>[c:1]1([N+:7](=[O:8])[O-:9])[cH:2][cH:3][cH:4][cH:5][cH:6]1.[H+:10]", "epd": [["Sigma-/Sigma+", [1, 10], [1, 7]], ["Pi-/LP+", [7, 9], [9]]]}
{"reaction_name": "Reductive N–O bond cleavage", "rsmi": "[H:5][H:6].[O:1]([N:9]([c:2]1[cH:11][cH:3][cH:8][cH:4][cH:12]1)[H:7])[H:10]>>[O:1]([H:6])[H:10].[c:2]1([N:9]([H:5])[H:7])[cH:11][cH:3][cH:8][cH:4][cH:12]1", "epd": [["Sigma-/Sigma+", [1, 9], [1, 6]], ["Sigma-/Sigma+", [5, 6], [5, 9]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[CH3:2][C:4](=[C:3]=[N-:8])[c:9]1[cH:12][cH:14][cH:18][cH:15][cH:13]1.[cH:1]1[cH:5][cH:16][c:11]([N+:7](=[CH2:10])[CH3:19])[cH:17][cH:6]1>>[cH:1]1[cH:5][cH:16][c:11]([N:7]([CH2:10][C:4]([CH3:2])([C:3]#[N:8])[c:9]2[cH:12][cH:14][cH:18][cH:15][cH:13]2)[CH3:19])[cH:17][cH:6]1", "epd": [["LP-/Pi+", [8], [3, 8]], ["Pi-/Sigma+", [4, 3], [4, 10]], ["Pi-/LP+", [10, 7], [7]]]}
{"reaction_name": "Michael addition", "rsmi": "[C:1](#[N:11])[C:16]([C:2]#[N:12])=[CH:3][c:19]1[cH:9][cH:14][cH:20][cH:15][cH:10]1.[cH:4]1[cH:6][c:7]2[c:21]([cH:13][cH:22]1)[CH:18]=[CH:5][CH:17]2[Li:8]>>[C:1](=[N-:11])=[C:16]([C:2]#[N:12])[CH:3]([CH:17]1[CH:5]=[CH:18][c:21]2[c:7]1[cH:6][cH:4][cH:22][cH:13]2)[c:19]1[cH:9][cH:14][cH:20][cH:15][cH:10]1.[Li+:8]", "epd": [["Sigma-/Sigma+", [17, 8], [17, 3]], ["Pi-/Pi+", [3, 16], [16, 1]], ["Pi-/LP+", [1, 11], [11]]]}
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[O:1]=[S:5](=[O:2])([N:17]=[C:16]=[O:20])[c:30]1[cH:10][cH:3][c:29]([CH3:31])[cH:4][cH:11]1.[cH:6]1[cH:12][c:25]([CH:8]=[C:32]2[CH:26]=[CH:18][C:23](=[N+:24]([O-:21])[O-:22])[CH:19]=[CH:27]2)[cH:13][cH:7][c:14]1[N+:28](=[O:9])[O-:15]>>[O:1]=[S:5](=[O:2])([N-:17][C:16]([CH:8]([c:25]1[cH:12][cH:6][c:14]([N+:28](=[O:9])[O-:15])[cH:7][cH:13]1)[c:32]1[cH:26][cH:18][c:23]([N+:24](=[O:21])[O-:22])[cH:19][cH:27]1)=[O:20])[c:30]1[cH:10][cH:3][c:29]([CH3:31])[cH:4][cH:11]1", "epd": [["LP-/Pi+", [21], [24, 21]], ["Pi-/Pi+", [23, 24], [18, 23]], ["Pi-/Pi+", [26, 18], [32, 26]], ["Pi-/Sigma+", [8, 32], [8, 16]], ["Pi-/LP+", [16, 17], [17]]]}
